US09382247B2
1.2.1. Step 1: cyclopropanecarboxylic acid [5-(4-hydroxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide
4-(Hydroxymethyl)phenylboronic acid (1.1 eq.) is added to a solution of cyclopropanecarboxylic acid (5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide in 1,4-dioxane/water (4:1). K2CO3 (2 eq.) and PdCl2 dppf (0.03 eq.) are added to the solution. The resulting mixture is then heated in an oil bath at 90° C. for 16 h under N2. Water is added and the solution is extracted with ethyl acetate. The organic layers are dried over anhydrous MgSO4 and evaporated in vacuo. The resulting mixture is used without further purification.

reactant | 4-(Hydroxymethyl)phenylboronic acid | 1.1 eq. | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | cyclopropanecarboxylic acid (5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide | BrC1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C10H9BrN4O
reactant | K2CO3 | 2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | 1,4-dioxane water | O1CCOCC1.O
catalyst | PdCl2 dppf | 0.03 eq. | Cl[Pd]Cl.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | cyclopropanecarboxylic acid [5-(4-hydroxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide | OCC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C17H16N4O2
